US06600075B1
Preparation of bis(5-Cyanopentyl)aminopropane
116.0 g of adiponitrile and 15.7 mL of propylamine, (4 to 1 ratio of dinitrile to primary amine) were charged to a 300 cc autoclave along with 2.8 grams of catalyst (5 wt. % Pd on alumina powder). After purging with nitrogen, the reaction was pressurized to 50 psig with hydrogen and heating was commenced. Hydrogen was continuously replenished. After the temperature reached 110° C., stirring was increased to 1000 rpm and the hydrogen pressure was increased to 500 psig. The temperature and pressure were maintained for 1.5 hours. The product mixture comprised of 39% bis(cyanopentyl)aminopropane and 36% unconverted adiponitrile.

reactant | adiponitrile | 116.0 g | C(CCCCC#N)#N | C6H8N2
reactant | propylamine | 15.7 mL | C(CC)N | C3H9N
product | bis(5-Cyanopentyl)aminopropane | C(#N)CCCCCN(CCCCCC#N)CCC | C15H27N3
